### ISSUE TITLE
`Eq.rec` unification problem

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1116]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Steps to Reproduce

```lean
inductive Foo: List α → Type _
| mk (l): Foo l

def Foo.length: Foo l → Nat 
| mk l => l.length
  
variable {Γ Γ': List α} {p: Foo Γ} {h: Γ = Γ'}

@[simp]
theorem eq_rec_length : (h.rec (motive := fun Γ _ => Foo Γ) p).length = p.length 
  := h.recOn (motive:= fun x h => (h ▸ p: Foo x).length = p.length) rfl

example               : (h.rec (motive := fun Γ _ => Foo Γ) p).length = p.length := by
  simp only [eq_rec_length]

example               : (h.rec (motive := fun Γ _ => Foo Γ) p).length = p.length := by
  rw [eq_rec_length]

example               : (h.rec (motive := fun Γ _ => Foo Γ) p).length = p.length := eq_rec_length
```

**Expected behavior:** `eq_rec_length` can be used without arguments as it works in `Lean3`:

```lean
inductive Foo {α: Type}: list α → Type
| mk (l: list α): Foo l

def Foo.length {α: Type} {l: list α}: Foo l → ℕ 
| (Foo.mk l) := l.length
  
variables {α: Type} {Γ Γ': list α} {p: Foo Γ} {h: Γ = Γ'}

@[simp] 
theorem eq_rec_length : (h.rec p).length = p.length := eq.drec_on h rfl
theorem ex1           : (h.rec p).length = p.length := by simp
theorem ex2           : (h.rec p).length = p.length := by rw [eq_rec_length]
theorem ex3           : (h.rec p).length = p.length := eq_rec_length
```

**Actual behavior:** got errors on three examples:

```
unsolved goals
α : Type ?u.416
Γ Γ' : List α
p : Foo Γ
h : Γ = Γ'
⊢ Foo.length (h ▸ p) = Foo.length p
```
```
unsolved goals
α : Type ?u.597
Γ Γ' : List α
p : Foo Γ
h : Γ = Γ'
⊢ Foo.length (h ▸ p) = Foo.length p

α : Type ?u.597
Γ Γ' : List α
p : Foo Γ
h : Γ = Γ'
⊢ Γ' = Γ'
```
```
type mismatch
  eq_rec_length
has type
  Foo.length (?m.769 ▸ h ▸ p) = Foo.length (h ▸ p) : Prop
but is expected to have type
  Foo.length (h ▸ p) = Foo.length p : Prop
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-04-23`

**Comment by leodemoura** [comment]
Lean 3 has a special elaboration function for recursor-like applications. It has special support for inferring the motive for the recursor application. We decided not to implement this feature in Lean 4 and make sure all applications are elaborated using the same code for consistency. We are assuming that `match` expressions, the `▸` notation, and tactics are better alternatives for using recursors anyway.
That being said, your example exposes a limitation in the `▸` notation: the expected had to be available. The commit above addresses this limitation. We can now write
```lean
inductive Foo: List α → Type _
  | mk (l): Foo l

def Foo.length: Foo l → Nat
  | mk l => l.length

variable {α : Type u} {Γ Γ': List α} {p: Foo Γ} {h: Γ = Γ'}

theorem eq_rec_length : (h ▸ p).length = p.length := by
  cases h; rfl

example : (h ▸ p).length = p.length :=
  eq_rec_length

example : (h ▸ p).length = p.length := by
  simp only [eq_rec_length]

example : (h ▸ p).length = p.length := by
  rw [eq_rec_length]

example : (h ▸ p).length = p.length := by
  subst h; rfl

example : (h ▸ p).length = p.length :=
  match h with
  | rfl => rfl

example : (h ▸ p).length = p.length :=
  let (rfl) := h; rfl
```

**Comment by leodemoura** [comment]
If `match` +  the `▸` notation is not sufficient for all use cases. Our plan is to add a new notation for constructing recursor-like applications in term mode.

**Comment by leodemoura** [comment]
I am closing this issue because I think the commit above addresses the issue reported here. Please feel free to reopen if you disagree.
